US06297333B1
A 200 ml four-necked flask equipped with a reflux tube, a thermometer and a dropping funnel was thoroughly purged with nitrogen and dried. To the flask, methylmagnesium bromide (3.0 mol/l ether solution) (16.9 ml, 50.7 mmol) and dehydrated ether (50 ml) were introduced. To the flask, a solution of 2-methyl-1-indanon (3.70 g, 25.3 mmol) in dehydrate ether (20 ml) was dropwise added at room temperature with stirring. Then, the reaction mixture was stirred for 2 hours and poured into cold water. The resultant mixture was introduced into a separatory funnel to separate an organic phase. The aqueous phase was extracted by ether (100 ml×3) and a combined organic phase was washed with a saturated aqueous solution of ammonium chloride, water and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was distilled off to obtain 1,2-dimethyl-1-hydroxy-indene. The compound thus obtained was dissolved in toluene (30 ml) and, thereto, 0.1 g of p-toluenesulphonic acid was added. The reaction mixture was refluxed for 3 hours to remove water. The organic phase thus obtained was introduced into a separatory funnel and washed with a saturated aqueous solution of ammonium chloride, water and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. After removing a solvent, it was purified by column chromatography (developer; hexane) to obtain 2.70 g (GC 94%) of a pale yellow solution (yield: 74%).

reactant | methylmagnesium bromide | 50.7 mmol, 3.0 mol/l, 16.9 ml | C[Mg]Br
reactant | 2-methyl-1-indanon | 25.3 mmol, 3.70 g | CC1C(C2=CC=CC=C2C1)=O | C10H10O
reactant | water | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1,2-dimethyl-1-hydroxy-indene | CC1(C(=CC2=CC=CC=C12)C)O | C11H12O
